### PR TITLE
[Merged by Bors] - feat(Analysis/Calculus): logarithmic residue at simple zeros

### PR DESCRIPTION
**Pull request by psinary-sketch**
Add `AnalyticAt.tendsto_mul_logDeriv_simple_zero`: if f is analytic at x, f(x) = 0, and f'(x) ≠ 0, then `(w - x) * logDeriv f w → 1` as `w → x`.

Restated with `logDeriv` and placed in `LogDeriv.lean` per review feedback from @wwylele on #36778. Split from #36778 (3 of 3).

AI disclosure: Lean code developed with Claude (Anthropic) assistance in workflow. Mathematical content and proof strategies are original. All code verified locally with lake env lean before submission.

### CODE REVIEW

File: Mathlib/Analysis/Calculus/LogDeriv.lean [hunk 1]
```diff
@@ -137,3 +139,23 @@ lemma logDeriv_eqOn_iff [IsRCLikeNormedField 𝕜] {f g : 𝕜 → 𝕜'} {s : S
...
+  have h_deriv : Filter.Tendsto (deriv f) (𝓝[≠] x) (𝓝 (deriv f x)) :=
+    (hf.deriv.continuousAt).mono_left nhdsWithin_le_nhds
+  have h_div : Filter.Tendsto (fun w => deriv f w / slope f x w) (𝓝[≠] x) (𝓝 1) := by
+    have := h_deriv.div h_slope hf'
+    rwa [div_self hf'] at this
+  apply h_div.congr'
+  filter_upwards [self_mem_nhdsWithin] with w hw
+  have hsub : w - x ≠ 0 := sub_ne_zero.mpr hw
+  simp only [logDeriv_apply, slope, vsub_eq_sub, hfx, sub_zero, smul_eq_mul]
+  field_simp [hsub]
```
Comment (j-loreaux) [inline Mathlib/Analysis/Calculus/LogDeriv.lean]: have h_slope := hasDerivAt_iff_tendsto_slope.mp hf.differentiableAt.hasDerivAt
  rw [← div_self hf']
  convert hf.deriv.continuousAt.tendsto.mono_left nhdsWithin_le_nhds |>.div h_slope hf' using 2
  simp [logDeriv, slope, hfx]
  field
